US04627872
4-Amino-2-(3-methoxypropylamino)-5,6-dichloropyrimidine according to process (B)
1,850 g (9.31 moles) of 4-amino-2,5,6-trichloropyrimidine are dissolved in 4 liters of tetrahydrofuran. 1,659 g (18.62 moles) of 3-methoxypropylamine are added dropwise thereto over a period of 6 hours. The reaction mixture is heated for five hours at the boil, cooled and stirred into 20 liters of water. The resulting solid is filtered off, dried, stirred with 7 liters of methylene chloride and again filtered off. After the solid thus obtained has been twice recrystallised from toluene, 743 g (31.8% of theory) of the desired pyrimidine, melting point 114° C., are obtained.

reactant | 4-amino-2,5,6-trichloropyrimidine | 9.31 moles, 1,850 g | NC1=NC(=NC(=C1Cl)Cl)Cl | C4H2Cl3N3
reactant | 3-methoxypropylamine | 18.62 moles, 1,659 g | COCCCN | C4H11NO
reactant | water | 20 liters | O | H2O
solvent | tetrahydrofuran | 4 liters | O1CCCC1 | C4H8O
product | 4-Amino-2-(3-methoxypropylamino)-5,6-dichloropyrimidine | NC1=NC(=NC(=C1Cl)Cl)NCCCOC | C8H12Cl2N4O
